US07531532B2
4-(4-{3-[2-(4-Fluorophenyl)acetyl]ureido}phenoxy)-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine
To a solution of 4-(4-aminophenoxy)-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine (86.9 mg) in tetrahydrofuran (2.5 ml) was added a solution of 2-(4-fluorophenyl)acetyl isocyanate in tetrahydrofuran (0.25 M, 2.12 ml) at room temperature, followed by stirring for 3 days. The reaction mixture was concentrated under reduced pressure. The resultant residue was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate:methanol=97:3) to provide the titled compound (22.5 mg, 18%) as white powder.

reactant | 4-(4-aminophenoxy)-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine | 86.9 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCN(CC2)C)C=C1 | C22H30N6O2
reactant | 2-(4-fluorophenyl)acetyl isocyanate | FC1=CC=C(C=C1)CC(=O)N=C=O | C9H6FNO2
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.25 M, 2.12 ml | O1CCCC1 | C4H8O
product | 4-(4-{3-[2-(4-Fluorophenyl)acetyl]ureido}phenoxy)-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine | 22.5 mg, 18% | FC1=CC=C(C=C1)CC(=O)NC(NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCN(CC2)C)C=C1)=O | C31H36FN7O4
